Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F hx Afib on ASA 325mg who fell from sitting today and 
sustained cervical fractures.  Per patient she was doing 
colonoscopy prep when she became lightheaded yesterday morning, 
went into the kitchen, sat at the table and put her head down. 
The next thing she remembers is waking up on the floor with 
significant neck pain.  She got herself up off the floor and 
into
bed however the pain worsened and so she went to OSH ED 
wherehead CT was negative, CT Cspine showed C2 and C3 fx, CXR 
showed 8th rib fx and she was transferred to ___ for further 
eval.  She complains of significant neck pain that worsens with 
movement and right flank pain that worsens with movement.  
Denies numbness, weakness or tingling.

 
Past Medical History:
paroxysmal Afib (only on asa)
HTN
s/p sigmoidectomy for diverticulitis

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
=========================
O: HR: 59 BP: 100/37 RR: 17 Sat: 94%
Gen: WD/WN, comfortable, NAD. In Cervical Hard collar
HEENT: normocephalic, atraumatic
Neck: C-Collar
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R  pain w/movement; ___ in UE    5    5   5    5      5     5  
L    5     5     5     5   5     5    5   5    5      5     5

Sensation: Intact to light touch.

Reflexes: B T Br Pa Ac
Right     ___   2  1 
Left      ___   2  1
No ___
No Clonus
Toes downgoing bilaterally

DISCHARGE EXAM:
===================
VS: T= 98.4 BP=81/40-136/56 HR= 85(65-156) RR=18 O2 sat= 92% 2L  

GENERAL:comfortable in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa.  
NECK: C-collar in place, unable to assess JVP
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: Poor inspiratory effort ___ to collar/fracture. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+  
Left: DP 2+
 
Pertinent Results:
ADMISSION LABS:
========================
___ 09:40AM   GLUCOSE-115* UREA N-29* CREAT-1.1 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-28 ANION GAP-17
___ 09:40AM   CALCIUM-9.7 PHOSPHATE-4.7* MAGNESIUM-2.1
___ 09:40AM   WBC-11.9* RBC-4.05* HGB-11.2* HCT-34.9* 
MCV-86 MCH-27.6 MCHC-32.0 RDW-14.3
___ 09:40AM   PLT COUNT-276
___ 09:40AM   ___ PTT-27.2 ___

IMAGING:
===================
___ MRI C-spine
IMPRESSION: 1. C2 and C3 acute nondisplaced fractures. No 
ligamentous injury or epidural hematoma.   
2. Superior endplate fractures of the T1 and T2 vertebral bodies 
without loss of height. Annular tear in the anterior T1-2 disc. 

___ MRI/MRA of neck IMPRESSION: 
1. No evidence of vertebral or carotid artery dissection.     
2. Approximately 50% stenosis of the proximal left internal 
carotid artery. 

MICRO: NONE
===================

DISCHARGE:
=====================
___ 04:45AM BLOOD WBC-9.2 RBC-3.61* Hgb-9.9* Hct-31.0* 
MCV-86 MCH-27.6 MCHC-32.1 RDW-14.2 Plt ___
___ 04:45AM BLOOD Glucose-102* UreaN-23* Creat-0.9 Na-138 
K-3.6 Cl-98 HCO3-32 AnGap-12
___ 04:45AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.0
___ 04:45AM BLOOD TSH-PND
 
Brief Hospital Course:
___ year old female with HTN, AFib (on ASA), HLD, who was 
intially admitted for ACS service for c2/3 fracture who was 
transferred to cardiology for further management of afib w/ rvr. 
 

ACTIVE ISSUES:
=====================
# C2/C3 fracture: On ___, the patient was admitted from the 
ED after a syncopal episode related likely to dehydration in the 
setting of colonoscopy prep. She had an MRI which showed a C2 
and C3 fracture, but without evidence of ligamentous damage. A 
hard collar was fitted which was to be worn at all times. She 
was transferred to the floor for evaluation and treatment.

# Paroxysmal A.fib with RVR: She developed AFib with RVR which 
failed to resolve with IV metoprolol 5mg x2 doses, IV metoprolol 
10mg x1 dose, and 10mg IV diltiaziam x1 dose, therefore she was 
transferred to the TSICU for a diltiazem gtt. On hospital day 2 
she converted to sinus rhythm so the dilt gtt was stopped, she 
was restarted on her home dose of metoprolol 50mg BID, and she 
was transferred to the floor under the neurosurgery service. On 
hospital day 3, she again went into AFib with RVR. She received 
75mg PO metoprolol, 5mg IV metoprolol x3, and 15mg IV diltiazem 
and converted to SR. She was transferred to the cardiology 
service for further management of her AFib. While on tele, the 
patient remained in sinus rhythm in the ___ and was discharged 
to rehab on her home dose of metoprolol 50mg BID. The patient 
reported that her cardiologist and her discussed anticoagulation 
and recommended that she be on aspirin 325 as opposed to 
coumadin. With her paroxysmal atrial fibrillation, it should be 
considered if she would benefit from an anti-arrhthymic. 

CHRONIC ISSUES:
=====================
# HTN: Has been well controlled this admission on her home 
medications. No epsisodes of hypotension during afib with RVR.  
She was maintained on home valsartan, and HCTZ.
 
#HLD: she was maintained home pravastatin.

TRANSITIONAL ISSUES:
===========================
# TSH pending at the time of discharge
# With the patient's paroxysmal a.fib, she may benefit from 
chemical cardioversion
# Anti-coagulation: would recommend re-considering starting 
coumadin for anti-coagulation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Pravastatin 80 mg PO DAILY 
3. Valsartan 80 mg PO DAILY 
Hold for SBP<100
 
4. Metoprolol Tartrate 50 mg PO BID 
5. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN Pain 
2. Aspirin 325 mg PO DAILY 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. Heparin 5000 UNIT SC TID 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Metoprolol Tartrate 50 mg PO BID 
8. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
9. Pravastatin 80 mg PO HS 
10. Senna 1 TAB PO BID:PRN constipation 
11. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
12. Valsartan 80 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: C2 and C3 non-displaced fractures, T1 and T2 superior 
endplate fractures, paroxysmal atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Gait is steady, but has impaired activity tolerance.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you here at ___ 
___! You came to the hospital after you 
fell while preparing for your colonoscopy. Our imaging studies 
showed that you had a fracture of your neck, more specifically 
the vertebrae labeled, C2-C3 and upper back, the vertebrae 
labeled T1-T2. 

While you were in the hospital, you intermittently had a fast 
irregular heart rate called atrial fibrillation. While you were 
having the a.fib, you did not have any symptoms of chest pain or 
palpitations. We did not change your medications for fear that 
your heart rate would be too slow. From talking with you, you 
seemed to have talked with your cardiologists about coumadin to 
thin your blood because atrial fibrillation puts you at 
increased risk for stroke. We continued you on aspirin 325.

The following are recommendations from the neurosurgeons who saw 
you while in the hospital.
Do not smoke.
No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
Limit your use of stairs to ___ times per day.
You are required to wear your cervical collar at all times.
You may shower briefly without the collar or back brace; 
unless you have been instructed otherwise.
Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. unless directed by your 
doctor.
Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
Clearance to drive and return to work will be addressed at 
your post-operative office visit.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

Pain that is continually increasing or not relieved by pain 
medicine.
Any weakness, numbness, tingling in your extremities.
Fever greater than or equal to 10.5 F. 
Any change in your bowel or bladder habits (such as loss of 
bowl or urine control). 

 
Followup Instructions:
___